US07179823B1
Sodium hydride (60%, oily, 70.0 mg) was added to a solution of 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine (533 mg) and ethyl(3-phenyl-1H-pyrazol-4-yl)acetate (403 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl [1-[6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetate (581 mg, yield: 67%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | Sodium hydride | 70.0 mg | [H-].[Na+]
reactant | 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine | 533 mg | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C=1OC=CC1 | C15H13ClN2O3
reactant | ethyl(3-phenyl-1H-pyrazol-4-yl)acetate | 403 mg | C(C)OC(CC=1C(=NNC1)C1=CC=CC=C1)=O | C13H14N2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl [1-[6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetate | 581 mg, yield: 67% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=N1)CN1N=C(C(=C1)CC(=O)OCC)C1=CC=CC=C1)C | C28H26N4O5
